US07754744B2
Step 6: 4-[tert-Butoxycarbonyl-(5-cyanomethoxy-pyridin-2-yl)-amino]-piperidine-1-carboxylic acid tert-butyl ester
To a stirred solution of 4-[tert-butoxycarbonyl-(5-hydroxy-pyridin-2-yl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (0.79 g, 2.0 mmol, 1.0 equiv) in acetonitrile (20 mL) was added potassium carbonate (0.84 g, 6.0 mmol, 3.0 equiv), followed by bromoacetonitrile (0.21 mL, 0.37 g, 3.0 mmol, 1.5 equiv). After stirring at rt for 16 h, the reaction mixture was poured into ice water and extracted twice with ethyl acetate. The combined organic layers were washed with water, dried over MgSO4, filtered and concentrated by evaporation under reduced pressure. The crude product was purified by column chromatography on silica eluting with a gradient of dichloromethane/methanol to give 0.93 g (100%) of the title compound as light brown oil. MS (ISP): 433.3 [M+H]+.

reactant | 4-[tert-butoxycarbonyl-(5-hydroxy-pyridin-2-yl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 2.0 mmol, 0.79 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=NC=C(C=C1)O)C(=O)OC(C)(C)C | C20H31N3O5
reactant | potassium carbonate | 6.0 mmol, 0.84 g, 3.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 3.0 mmol, 0.21 mL, 0.37 g, 1.5 equiv | BrCC#N | C2H2BrN
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4-[tert-Butoxycarbonyl-(5-cyanomethoxy-pyridin-2-yl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 0.93 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=NC=C(C=C1)OCC#N)C(=O)OC(C)(C)C | C22H32N4O5
